US05990124
To a solution of 5.0 g (13.7 mmol) of bis-tropan-3-yl succinate in 100 mL of dry acetone is added 9.8 g (34.3 mmol) of 3,4-diacetoxybenzyl bromide (prepared from 3,4-dihydroxybenzaldehyde through acetylation of the hydroxy groups, reduction of the aldehyde to the corresponding alcohol, and bromination). Then the mixture is heated at 60-70° C. for 10 hours. The precipitate is collected by filtration, washing with acetone and ether, and drying under vacuum to yield 9.6 g (75%) of bis-[N-(3,4-diacetoxybenzyl)tropanium-3-yl] succinate dibromide as a white powder, which is further purified by recrystallization with methanol-methylene chloride.

reactant | bis-tropan-3-yl succinate | 13.7 mmol, 5.0 g | C(CCC(=O)OC1C[C@H]2CC[C@@H](C1)N2C)(=O)OC2C[C@H]1CC[C@@H](C2)N1C | C20H32N2O4
reactant | 3,4-diacetoxybenzyl bromide | 34.3 mmol, 9.8 g | C(C)(=O)OC=1C=C(CBr)C=CC1OC(C)=O | C11H11BrO4
reactant | 3,4-dihydroxybenzaldehyde | OC=1C=C(C=O)C=CC1O | C7H6O3
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | bis-[N-(3,4-diacetoxybenzyl)tropanium-3-yl] succinate dibromide | 9.6 g, 75% | [Br-].[Br-].C(CCC(=O)OC1C[C@H]2CC[C@@H](C1)[N+]2(C)CC2=CC(=C(C=C2)OC(C)=O)OC(C)=O)(=O)OC2C[C@H]1CC[C@@H](C2)[N+]1(C)CC1=CC(=C(C=C1)OC(C)=O)OC(C)=O | InChI=1S/C42H54N2O12.2BrH/c1-25(45)51-37-13-7-29(17-39(37)53-27(3)47)23-43(5)31-9-10-32(43)20-35(19-31)55-41(49)15-16-42(50)56-36-21-33-11-12-34(22-36)44(33,6)24-30-8-14-38(52-26(2)46)40(18-30)54-28(4)48;;/h7-8,13-14,17-18,31-36H,9-12,15-16,19-24H2,1-6H3;2*1H/q+2;;/p-2/t31-,32+,33-,34+,35?,36?,43?,44?;;
